US06498196B1
Step 8: Carbonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-trans-6-methylsulfanyl-5,6,7,8-tetrahydro-naphthalen-2-yl ester tert-butyl ester (G)
To a solution of carbonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-trans-6-mercapto-5,6,7,8-tetrahydro-naphthalen-2-yl ester tert-butyl ester (28.2 mg, 0.062 mmol) in acetone (2 mL) was added the iodomethane (20 μL, 0.31 mmol) and the potassium carbonate (26 mg, 0.18 mmol), and stirred at reflux for 4 h. The mixture was quenched with H2O, diluted with Et2O (50 mL), washed with H2O, brine, dried over MgSO4. The residu was purified by a flash chromatography (10% AcOEt/Hex) (21.2 mg , 73%). 1H NMR (CDCl3): 7.08 (1H, d, J=8.5 Hz, H5), 7.00-6.95 (2H, m, H6 and H8), 4.56 (1H, d, J=11 Hz, NH), 4.09 (1H, t, J=11.0 Hz, CHNH), 3.25-3.00 (3H, m), 2.15 (3H , broad, SCH3), 1.76 (4H, m, CH2), 1.57 (9H, s, t-butyl), 1.50 (9H, s, t-butyl), 0.73 (6H, m, CH3).

reactant | carbonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-trans-6-mercapto-5,6,7,8-tetrahydro-naphthalen-2-yl ester tert-butyl ester | 0.062 mmol, 28.2 mg | C(C)(C)(C)OC(OC1=CC=2C([C@H]([C@@H](CC2C=C1)S)NC(=O)OC(C)(C)C)(CC)CC)=O | C24H37NO5S
reactant | iodomethane | 0.31 mmol, 20 μL | IC | CH3I
reactant | potassium carbonate | 0.18 mmol, 26 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | Carbonic acid 7-tert-butoxycarbonylamino-8,8-diethyl-trans-6-methylsulfanyl-5,6,7,8-tetrahydro-naphthalen-2-yl ester tert-butyl ester | C(C)(C)(C)OC(OC1=CC=2C([C@H]([C@@H](CC2C=C1)SC)NC(=O)OC(C)(C)C)(CC)CC)=O | C25H39NO5S
